US07544812B2
A mixture of 2-methyl-3-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propenyl}-phenyl)-2-phenoxy-propionic acid ethyl ester (0.069 g, 0.119 mmol) and 10% Pd/C (70 mg) in EtOAc (50 mL) is purged with N2 then H2 and then stirred under a H2 balloon at room temperature for 2 h. The reaction mixture is filtered through hyflo and the solvent removed in vacuo to afford 0.069 g (100%) 2-methyl-3-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenyl)-2-phenoxy-propionic acid ethyl ester. 1H NMR. MS (ES+) Calc'd for C33H38N2O4F3 (M+1) 583. Found m/z 583 (100%).

reactant | 2-methyl-3-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propenyl}-phenyl)-2-phenoxy-propionic acid ethyl ester | 0.119 mmol, 0.069 g | C(C)OC(C(CC1=CC=C(C=C1)C=CCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(OC1=CC=CC=C1)C)=O | C33H35F3N2O4
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 2-methyl-3-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenyl)-2-phenoxy-propionic acid ethyl ester | 0.069 g, 100% | C(C)OC(C(CC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)(OC1=CC=CC=C1)C)=O | C33H37F3N2O4
